US07297816B2
(S)-3-(3-Bromo-4-chloro-phenyl)-2-[4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid
(S)-3-(3-Bromo-4-chloro-phenyl)-2-[4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid was prepared from 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride and 4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid (prepared from quinoxaline-5-sulfonyl chloride as in EXAMPLE 14, Part A) as in Example 1, Part C. Hydrolysis of the methyl ester as in EXAMPLE 2, Part E, provided the title compound. HPLC: RT=10.21 min. MS (ESI−): mass calcd. for C24H16BrCl3N4O5S, 658.74; m/z found, 655/657/659 [M−H]−. 1H NMR (400 MHz, CDCl3): 10.83 (s, 1H), 8.98 (d, J=1.8, 1H), 8.92 (d, J=1.7, 1H), 8.52 (dd, J=7.3, 1.2, 1H), 8.30 (dd, J=8.5, 1.3, 1H), 7.88 (d, J=7.5, 1H), 7.85 (s, 1H), 7.43-7.42 (m, 1H), 7.37-7.34 (m, 1H), 7.07-7.02 (m, 1H), 6.47 (d, J=7.6, 1H), 4.91-4.85 (m, 1H), 3.24-3.09 (m, 2H).

reactant | 3-bromo-4-chloro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)Cl)Br)=O
reactant | 4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H9Cl2N3O4S
reactant | quinoxaline-5-sulfonyl chloride | N1=CC=NC=2C(=CC=CC12)S(=O)(=O)Cl | C8H5ClN2O2S
product | (S)-3-(3-Bromo-4-chloro-phenyl)-2-[4,5-dichloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid | BrC=1C=C(C=CC1Cl)C[C@@H](C(=O)O)NC(C1=C(C=C(C(=C1)Cl)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C24H16BrCl3N4O5S
